US07825253B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-4-yl-quinoline-2,5-diamine
The title compound, MS: m/e=331.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline (CAS 455955-26-7), 5-methyl-2-furanmethanamine and 4-aminopyridine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-4-yl-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NC1=CC=NC=C1 | C20H18N4O
